US05445724
Preparation of 3-(triphenylphosphonio)propyl Methyl Ketone Chloride
The title compound was prepared from triphenylphosphine and 3-chloropropyl methyl ketone as described in Example 1 in a yield of 82%.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-chloropropyl methyl ketone | CC(=O)CCCCl | C5H9ClO
product | 3-(triphenylphosphonio)propyl Methyl Ketone Chloride | yield of 82% | [Cl-].CC(=O)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H24OP.ClH/c1-20(24)12-11-19-25(21-13-5-2-6-14-21,22-15-7-3-8-16-22)23-17-9-4-10-18-23;/h2-10,13-18H,11-12,19H2,1H3;1H/q+1;/p-1
